US06255285B1
To a solution of 1.53 g (4.75 mmol) of [2-amino-1-[(3-tert-butyl-4-hydroxyphenyl)methyl]ethyl]carbamic acid tert-butyl ester in methylene chloride (20 ml), 0.725 ml (5.23 mmol) of triethylamine and 0.746 ml (5.23 mmol) of benzyl chloroformate were added and the resulting mixture was stirred for 15 minutes. Under cooling with ice, saturated aqueous NaHCO3 was added and the mixture was extracted with methylene chloride and washed with saturated brine. The organic layer was dried with magnesium sulfate and concentrated under reduced pressure; the resulting residue was subjected to silica gel column chromatography (eluting solvent; ethyl acetate:n-hexane=1:1) to give [2-(benzoxycarbonylamino)-1-[(3-tert-butyl-4-hydroxyphenyl)methyl]ethyl]carbamic acid tert-butyl ester in the amount of 1.78 g (82%).

reactant | [2-amino-1-[(3-tert-butyl-4-hydroxyphenyl)methyl]ethyl]carbamic acid tert-butyl ester | 4.75 mmol, 1.53 g | C(C)(C)(C)OC(NC(CN)CC1=CC(=C(C=C1)O)C(C)(C)C)=O | C18H30N2O3
reactant | triethylamine | 5.23 mmol, 0.725 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 5.23 mmol, 0.746 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | [2-(benzoxycarbonylamino)-1-[(3-tert-butyl-4-hydroxyphenyl)methyl]ethyl]carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(CNC(=O)OCC1=CC=CC=C1)CC1=CC(=C(C=C1)O)C(C)(C)C)=O | C26H36N2O5
